US08877754B2
N-(4-Iodo-benzyl)-acetamide
0.34 mL (3.5 mmol) acetic anhydride are added to 750 mg (3.22 mmol) 4-iodo-benzylamine in 15 ml acetic acid and the mixture is stirred at rt for 4 h. After that time, the solvent is evaporated and the residue partitionated between TBME and water. The organic layer is separated, washed with water (1×) and saturated NaHCO3 solution (2×). The organic layer is dried over sodium sulphate and the solvent is evaporated to yield the desired product.

reactant | acetic anhydride | 3.5 mmol, 0.34 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-iodo-benzylamine | 3.22 mmol, 750 mg | IC1=CC=C(CN)C=C1 | C7H8IN
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | N-(4-Iodo-benzyl)-acetamide | IC1=CC=C(CNC(C)=O)C=C1 | C9H10INO
